US05278326
Preparation of 2,4-difluoro-N-octyl-β-oxo-benzenepropanamide
The title compound was prepared from 2',4'-difluoroacetophenone (5.0 g, 0.032 mol), octyl isocyanate (4.97 g, 0.032 mol), and lithium diisopropylamide (0.032 mol) using the procedure described in Example 1. Purification by flash chromatography (silica gel, 20% EtoAc/hexane) yielded 4.25 g (0.013 mol, 42.6%) of the desired product.

reactant | 2',4'-difluoroacetophenone | 0.032 mol, 5.0 g | FC1=C(C=CC(=C1)F)C(C)=O | C8H6F2O
reactant | octyl isocyanate | 0.032 mol, 4.97 g | C(CCCCCCC)N=C=O | C9H17NO
reactant | lithium diisopropylamide | 0.032 mol | C(C)(C)[N-]C(C)C.[Li+]
product | 2,4-difluoro-N-octyl-β-oxo-benzenepropanamide | 0.013 mol, 4.25 g, 42.6% | FC1=C(C=CC(=C1)F)C(CC(=O)NCCCCCCCC)=O | C17H23F2NO2
